US04866196
4.19 g of 1-amino-2-(2-fluoro-4-methoxyphenyl)propane hydrochloride are neutralized with a mixture of chloroform and an aqueous sodium bicarbonate solution. The chloroform layer is separated therefrom and condensed to dryness. Hydrobromic acid is added to the residue, and the mixture is refluxed. Then, the reaction mixture is evaporated, and the residue is recrystallized from a mixture of isopropylalcohol and isopropylether. 4.53 g of 3-fluoro-4-(2-amino-1-methylethyl)phenol hydrobromide are obtained.

reactant | 1-amino-2-(2-fluoro-4-methoxyphenyl)propane hydrochloride | 4.19 g | Cl.NCC(C)C1=C(C=C(C=C1)OC)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Hydrobromic acid | Br | BrH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-4-(2-amino-1-methylethyl)phenol hydrobromide | 4.53 g, Yield 95% | Br.FC=1C=C(C=CC1C(CN)C)O | InChI=1S/C9H12FNO.BrH/c1-6(5-11)8-3-2-7(12)4-9(8)10;/h2-4,6,12H,5,11H2,1H3;1H
